US09238658B2
To a solution of 6-fluoroindoline (9.36 g, 68 mmol) in CH2Cl2 (100 mL) was added 1-Boc-4-piperidone (13.6 g, 68 mmol). The resulting mixture was stirred at room temperature for 1 h and NaBH(OAc)3 (18 g, 85 mmol, 1.25 equiv) was added. The resulting mixture was stirred at room temperature for 24 h and was then poured slowly to a vigorously stirred Na2CO3(aq). After 30 min stirring, the layers were separated. The aqueous layer was extracted with CH2Cl2 (100 mL). The combined organic layer was washed with brine (100 mL), dried (Na2SO4), and filtered. The solvent was removed by roto-evaporator, Et2O (10 mL) and then hexane (150 mL) were added to the resulting residue. The mixture was allowed to stand, resulting in the formation of a white solid, which was collected and washed with 5% Et2O/hexane and then dried. This was repeated to yield three crops of tert-butyl 4-(6-fluoroindolin-1-yl)piperidine-1-carboxylate as a white solid.

reactant | 6-fluoroindoline | 68 mmol, 9.36 g | FC1=CC=C2CCNC2=C1 | C8H8FN
reactant | 1-Boc-4-piperidone | 68 mmol, 13.6 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | NaBH(OAc)3 | 85 mmol, 18 g, 1.25 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(6-fluoroindolin-1-yl)piperidine-1-carboxylate | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H25FN2O2
